US09303023B2
To a solution of 3-(4-nitro-1H-pyrazol-1-yl)propanal (200 mg, 1.18 mmol) in MeOH (12.0 mL), 5-methoxyindoline (176 mg, 1.18 mmol) was added. This reaction mixture was stirred at rt for 1 h, then NaBH4 (121 mg, 3.20 mmol) was added and stirred for another 30 min at rt. The reaction mixture was quenched with water and extracted with EtOAc (2×). The combined org. layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 5-methoxy-1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline, which was used in the next step without further purification. LC-MS conditions B: tR=0.56 min, [M+H]+=303.15.

reactant | 3-(4-nitro-1H-pyrazol-1-yl)propanal | 1.18 mmol, 200 mg | [N+](=O)([O-])C=1C=NN(C1)CCC=O | C6H7N3O3
reactant | 5-methoxyindoline | 1.18 mmol, 176 mg | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | NaBH4 | 3.20 mmol, 121 mg | [BH4-].[Na+]
solvent | MeOH | 12.0 mL | CO | CH4O
product | 5-methoxy-1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline | COC=1C=C2CCN(C2=CC1)CCCN1N=CC(=C1)[N+](=O)[O-] | C15H18N4O3
